US07157577B2
A mixture of 5-fluoroindoline from above, 5-chlorosulfonyl-2-oxindole (6.1 g, 1.2 equivalent) and pyridine (7.1 mL) in dichloromethane (40 mL) was stirred at room temperature overnight. The reaction was concentrated and the residue was recrystallized from methanol to give 5 g (68% yield) of 5-(5-fluoro-2,3-dihydro-indole-1-sulfonyl)-1,3-dihydro-indol-2-one as a pink-colored solid. 1H-NMR (360 MHz, dimethylsulfoxide-d6) δ 10.75 (br s, 1H, NH), 7.60 (m, 2H), 7.60 (dd, 1H), 7.02 (m, 2H), 6.90 (d, 1H), 3.89 (t, 2H, CH2), 3.52 (s, 2H, CH2), 2.87 (t, 2H, CH2). MS 331 [M+−1].

reactant | 5-fluoroindoline | FC=1C=C2CCNC2=CC1 | C8H8FN
reactant | 5-chlorosulfonyl-2-oxindole | 6.1 g, 1.2 equivalent | ClS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H6ClNO3S
reactant | pyridine | 7.1 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 5-(5-fluoro-2,3-dihydro-indole-1-sulfonyl)-1,3-dihydro-indol-2-one | 5 g, 68% yield | FC=1C=C2CCN(C2=CC1)S(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C16H13FN2O3S
